US07888364B2
7.3 g of 4-(3-hydroxypropylthio)benzonitrile was reacted via Procedure R to yield 4-(3-hydroxypropylsulfonyl)benzonitrile. 1.9 g of NBS was added to a solution of 2 g of 4-(3-hydroxypropylsulfonyl)benzonitrile and 2.8 g of triphenylphosphine in 10 mL of dichloromethane at 0° C. The reaction mixture was stirred at 0˜5° C. for 1 h. The mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (10-70% ethyl acetate/hexane) to afford 4-(3-bromopropylsulfonyl)benzonitrile. 300 mg of 4-(3-bromopropylsulfonyl)benzonitrile was reacted via Procedure T to give 4-(allylsulfonyl)benzoic acid. 40 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(allylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 4-(allylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 413.2 (M)+.

reactant | NBS | 1.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-(3-hydroxypropylsulfonyl)benzonitrile | 2 g | OCCCS(=O)(=O)C1=CC=C(C#N)C=C1 | C10H11NO3S
reactant | triphenylphosphine | 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3-bromopropylsulfonyl)benzonitrile | BrCCCS(=O)(=O)C1=CC=C(C#N)C=C1 | C10H10BrNO2S
